US09376441B2
In a round-bottomed, 100-mL, single-necked flask equipped with a reflux condenser were placed a mixture of (R)-4-((R)-1-((6-chloro-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: and (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: (85.0 mg, 0.23 mmol), 1-(oxetan-3-yl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine (103.9 mg, 0.30 mmol), and tetrakis(triphenylphosphine)palladium (10.3 mg, 0.010 mmol) in DME (3 mL) and 2N Na2CO3 (2 mL). The reaction mixture was sonicated for 30 sec, degassed with nitrogen gas for 30 sec, and heated at 100° C. for 3 h. Then, it was cooled to room temperature, quenched with water, and the organic layers extracted with EtOAc (3×5 mL). The combined organic layers were washed with water (2×5 mL) and brine (1×5 mL), dried (Na2SO4), concentrated, and purified by flash chromatography (100% dichloromethane to 25% MeOH in dichloromethane) to afford 55.9 mg (48%) of (R)-4-((R)-1-((3-cyclopropyl-6-(4-(1-(oxetan-3-yl)piperidin-4-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:. 1H NMR (300 MHz, d6-DMSO) δ 8.28 (s, 1H), 8.00 (d, J=8.4 Hz, 2H), 7.74 (s, 1H), 7.57 (s, 1H), 7.34 (s, 1H), 5.57 (m, 1H), 4.50 (m, 4H), 3.71 (m, 1H), 3.42 (m, 2H), 3.21 (m, 1H), 2.82 (m, 3H), 2.51 (m, 1H), 2.32 (m, 2H), 1.79 (m, 6H), 1.41 (d, J=6.3 Hz, 3H), 1.18 (m, 4H). MS (ESI+) m/z 502.2 (M+H).

reactant | (R)-4-((R)-1-((6-chloro-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | ClC1=CC2=C(C(=N1)O[C@H](C)[C@@H]1CC(NC1)=O)N(C=N2)C2CC2 | C15H17ClN4O2
reactant | (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | BrC1=CC2=C(C(=N1)O[C@H](C)[C@@H]1CC(NC1)=O)N(C=N2)C2CC2 | C15H17BrN4O2
reactant | 1-(oxetan-3-yl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine | 0.30 mmol, 103.9 mg | O1CC(C1)N1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H30BNO3
solvent | DME | 3 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 2N, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.010 mmol, 10.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-4-((R)-1-((3-cyclopropyl-6-(4-(1-(oxetan-3-yl)piperidin-4-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 55.9 mg, 48% | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C(C=C2)C2CCN(CC2)C2COC2)O[C@H](C)[C@@H]2CC(NC2)=O | C29H35N5O3
